US06660744B1
A solution of 4-bromo-2-methoxyaniline (8.096 g, 40.04 mmol) in dichloromethane (100 mL) was treated with triethylamine (6.06 g, 60.06 mmol), then hydrocinnamoyl chloride (7.08 g, 42.04 mmol). The reaction mixture was stirred for 48 h under a nitrogen atmosphere. The solvent was removed under reduced pressure, and ethyl acetate was added. The precipitate was filtered, and the filtrate was evaporated to a solid under reduced pressure. The solid was dissolved in ethyl acetate, and washed with 5 N hydrochloric acid solution, 5 N sodium hydroxide solution, water and brine. The crude material (two spots by thin layer chromatography) was triturated with methanol. The un-dissolved solid was filtered to give 6 g (50%) of N1-(4-bromo-2-methoxyphenyl)-3-phenylpropanamide. 1H NMR (DMSO-d6, 400 MHz) δ 9.17 (s, 1H), 7.92-7.90 (m, 1H), 7.30-7.24 (m, 4H), 7.20-7.18 (m, 2H), 7.09-7.07 (m, 1H), 3.83 (s, 3H), 2.90-2.86 (m, 2H), 2.72-2.69 (m, 2H); HPLC Waters 2690 Alliance HPLC (Symmetry Shield RP18 3.5 μm, 2.1×50 mm; 5%-95% acetonitrile-0.1 M ammonium acetate over 15 min, 0.5 mL/min) Rt 7.491 min (97%).

reactant | 4-bromo-2-methoxyaniline | 40.04 mmol, 8.096 g | BrC1=CC(=C(N)C=C1)OC | C7H8BrNO
reactant | triethylamine | 60.06 mmol, 6.06 g | C(C)N(CC)CC | C6H15N
reactant | hydrocinnamoyl chloride | 42.04 mmol, 7.08 g | C(CCC1=CC=CC=C1)(=O)Cl | C9H9ClO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N1-(4-bromo-2-methoxyphenyl)-3-phenylpropanamide | 6 g, 50% | BrC1=CC(=C(C=C1)NC(CCC1=CC=CC=C1)=O)OC | C16H16BrNO2
